US06762189B1
Preparation of N-(2-Hydroxyethyl)-4-(1H-5-indazolylamino)-2-methylthio-5-pyrimidinecarboxamide
To the solution of methanol (20 ml) was added 4-(1H-5-indazolylamino)-2-methylthio-5-pyrimidinecarboxylic acid ethyl ester (1 g) prepared from preparation example 1, added ethanol amine (7 ml) at room temperature, and refluxed for 4 hr. The reaction mixture was cooled and slowly added H2O (40 ml) at 20° C. and stirred for 0.5 hr. The reaction mixture was filtered, washed with 25% aqueous methanol solution (10 ml), obtained the desired compound (0.75 g, 72%)

reactant | methanol | 20 ml | CO | CH4O
reactant | 4-(1H-5-indazolylamino)-2-methylthio-5-pyrimidinecarboxylic acid ethyl ester | 1 g | C(C)OC(=O)C=1C(=NC(=NC1)SC)NC=1C=C2C=NNC2=CC1 | C15H15N5O2S
reactant | ethanol amine | 7 ml | C(O)CN | C2H7NO
solvent | H2O | 40 ml | O | H2O
product | N-(2-Hydroxyethyl)-4-(1H-5-indazolylamino)-2-methylthio-5-pyrimidinecarboxamide | 0.75 g, 72% | OCCNC(=O)C=1C(=NC(=NC1)SC)NC=1C=C2C=NNC2=CC1 | C15H16N6O2S
